US09024044B2
Step 1. Synthesis of 2-(diethylphosphono)butyric acid methyl ester
Methyl 2-bromobutanoate (92 g, 0.508 mol) and triethylphosphite (95 g, 0.57 mol) were mixed, and the mixture was stirred at 110° C. for 3 days. The reaction mixture was dried under reduced pressure to give the title compound.

reactant | Methyl 2-bromobutanoate | 0.508 mol, 92 g | BrC(C(=O)OC)CC | C5H9BrO2
reactant | triethylphosphite | 0.57 mol, 95 g | C(C)OP(OCC)OCC | C6H15O3P
product | 2-(diethylphosphono)butyric acid methyl ester | COC(C(CC)P(=O)(OCC)OCC)=O | C9H19O5P
